US08080571B2
(a) 1-(3-Bromophenyl)-2-(2-ethylimidazol-1-yl)ethanone
To a solution of 2-bromo-1-(3-bromophenyl)ethanone (120 mg, 0.432 mmol) in dioxane (2 mL) was added 2-ethylimidazole (83.0 mg, 0.864 mmol) and the reaction mixture was stirred for 1 h at 80° C. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography using MeOH:CH2Cl2 (6:94) as eluent to give the sub-title compound in 51% yield (65 mg, 0.22 mmol).

reactant | 2-bromo-1-(3-bromophenyl)ethanone | 0.432 mmol, 120 mg | BrCC(=O)C1=CC(=CC=C1)Br | C8H6Br2O
reactant | 2-ethylimidazole | 0.864 mmol, 83.0 mg | C(C)C=1NC=CN1 | C5H8N2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1-(3-Bromophenyl)-2-(2-ethylimidazol-1-yl)ethanone | 51% yield | BrC=1C=C(C=CC1)C(CN1C(=NC=C1)CC)=O | C13H13BrN2O
